US20010011090A1
Zinc powder and ammonium chloride were added to an aqueous ethanol solution of 1-(4-nitrophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole under ice-cooling, followed by stirring at 20° C. or below for 30 minutes. The insoluble matter in the reaction solution was removed by celite filtration, and then the filtrate was treated in the usual way to give 1-(4-hydroxyaminophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole as a colorless solid.

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 1-(4-nitrophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H5F6N3O2
catalyst | Zinc | [Zn] | Zn
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-hydroxyaminophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole | ONC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3O
